datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.C[CH:10](C1=CC=CC=C1)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1>>C1CC[C:22]([O-:23])=[CH:21][CH:20]([H:10])C1.C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C:11]1=[CH:10]CCCC1)[Co-3:73]32(C#[O+])(C#[O+])C#[O+]>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]1CCCC[C+:11]1[C:62]12C3[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]32(C#[O+])(C#[O+])C#[O+])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2([I+:61]C3=CC=CC=C3)[C:11](=[O:12])CC(C)(C)C[C:91]2=[O:92])[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81].[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>[C:10]([C:11]#[N:12])([CH:20]1[CH:21]=[C:22]([O-:23])[O:43][C:31]1=[O:32])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>COC1=CC=C([C:11]([CH2:10][CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC[O:83][P:72]([CH:10]([CH:20]1CCC[C:22]([O-:23])=[C:21]1C)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC1C(C)[O:62][CH:11]([H:10])[O:12]1>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC1C(C)[O:62][CH:11]=[O+:12]1 10,11=10,20;12=11,12"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[O-:12].COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>CC[O:72][C:11]([CH:10]([CH:20]1[CH:21]=[C:22](C2=CC=C(OC)C=C2)[O:23][C:32]2=[C:31]1C=CC=C2)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21.[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C:11]1=[CH:10]CCCC1)[Co-3:73]32(C#[O+])(C#[O+])C#[O+]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]2CCCC[C+:11]2[C:62]23C4[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])C#[O+])[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[C:10]([CH:20]1CCC[C:22]([O-:23])=[CH:21]1)([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10=20;20,21=21,22;22,23=23"
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>COC1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1>>CC[O:33][C:22](=[CH:21][CH:20](C)[N:10]1[C:11](C)=[NH+:12][CH:62]=[CH:61]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:10]([C:11]#[N:12])([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1 10,11=10,20;12=11,12"
